US04432972
N-[N-[Ethoxy(methyl)phosphinyl]-L-phenylalanyl]-L-leucine (0.386 g., 1.0 mmole) is thoroughly dried, and then allowed to dissolve in methylene chloride (5 ml.). The solution is flushed with argon and treated with bis(trimethylsilyl)acetamide (0.33 ml., 1.3 mmole), stirred for two hours at room temperature, then concentrated in vacuo (less than 0.3 mm of Hg) and again taken up in methylene chloride (4 ml.). This solution is treated with bromotrimethylsilane (0.29 ml., 2.2 mmole) under argon, stirred overnight at room temperature, then treated slowly with a mixture of methanol (3.1 ml.), water (0.78 ml.), and triethylamine (0.78 ml.). After again stirring overnight at room temperature, the mixture is concentrated to dryness, taken up in water (approximately 3 ml.), and passed through an AG-50W-2 Li+ column (25 ml. settled bed). Fractions of approximately 8 ml. each are collected and those containing the product (fractions numbered 1 to 4) are pooled and concentrated to a small volume (approximately 2 ml.). This material is applied to a column of HP-20 and eluted with water. Fractions of approximately 8 ml. each are collected and those containing the product (fractions numbered 11 to 19) are pooled and concentrated to approximately 20 ml. and lyophilized to a white powder (0.168 g.). A sample of this powder (0.04 g.) is taken up in water, filtered (millipore) and relyophilized to give an analytical sample (0.039 g.) of N-[N-[hydroxy(methyl)phosphinyl]-L-phenylalanyl]-L-leucine, dilithium salt; m.p. greater than 250° (turns pink at 210°). Tlc (isopropanol/water/con. NH4OH, 7:2:1) single spot Rf is 0.51. [α]D25 =-36.6° (c=1.0, water).

reactant | N-[N-[Ethoxy(methyl)phosphinyl]-L-phenylalanyl]-L-leucine | 1.0 mmole, 0.386 g | C(C)OP(=O)(N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)C | C18H29N2O5P
reactant | bis(trimethylsilyl)acetamide | 1.3 mmole, 0.33 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | bromotrimethylsilane | 2.2 mmole, 0.29 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | methanol | 3.1 ml | CO | CH4O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.78 ml | C(C)N(CC)CC | C6H15N
solvent | water | 0.78 ml | O | H2O
product | N-[N-[hydroxy(methyl)phosphinyl]-L-phenylalanyl]-L-leucine | 0.039 g | OP(=O)(N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)C | C16H25N2O5P
